US06982278B2
2-Allyl-1-allyloxy-4-benzyloxy-benzene
A mixture of 2-allyl-4-benzyloxy-phenol (ER2-YYR-17) (35.56 g, 148 mmol), allyl bromide (21.5 g, 178 mmol), cesium carbonate (58 g, 178 mmol) and methyl ethyl ketone (400 mL) was refluxed with stirring in a 1 L round bottomed flask. After 23 h, the reaction was cooled and concentrated. The residue was partitioned between water (500 mL) and EtOAc (400 mL). The organic layer was dried (MgSO4) and concentrated to a tan oil, 39.37 (95%) ER0-LKW-190A: 1H NMR (CDCl3) δ 3.45 (dd, 2H), 4.54 (dd, 2H), 5.04 (s, 2H), 5.18 (m, 2H), 5.29 (dd, 1H), 5.46 (dd, 1H), 5.94-6.18 (m, 2H), 6.81 (s, 2H), 6.88 (s, 1H), 7.30-7.48 (m, 5H), MS (ES) m/e 281 [M+1].

reactant | 2-allyl-4-benzyloxy-phenol | 148 mmol, 35.56 g | C(C=C)C1=C(C=CC(=C1)OCC1=CC=CC=C1)O | C16H16O2
reactant | allyl bromide | 178 mmol, 21.5 g | C(C=C)Br | C3H5Br
reactant | cesium carbonate | 178 mmol, 58 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methyl ethyl ketone | 400 mL | C(C)C(=O)C | C4H8O
product | 2-Allyl-1-allyloxy-4-benzyloxy-benzene | C(C=C)C1=C(C=CC(=C1)OCC1=CC=CC=C1)OCC=C | C19H20O2
